* C:\Users\FilthyWeeb\Documents\Basic-Circuit-Simulator-master\Basic-Circuit-Simulator-master\2GT1GC.asc
R1 P001 0 1/2
R2 N001 0 1
R3 N002 N001 1/4
R4 N002 P002 1
R5 N002 N003 1/2
R6 N003 0 1/4
I1 N003 0 3
V1 N001 P001 5
V2 P002 N003 -3
.backanno
.end