* C:\Users\FilthyWeeb\Documents\Basic-Circuit-Simulator-master\Basic-Circuit-Simulator-master\CCVS.asc
R1 N002 0 1
R2 N002 0 1
R3 N003 N001 1
G1 N001 0 N001 N003 G
V1 N004 0 3
F1 N003 N004 V99 F
I1 N004 N003 3
V99 N002 N001 0

.backanno
.end
