* C:\Users\FilthyWeeb\Documents\Basic-Circuit-Simulator-master\Basic-Circuit-Simulator-master\VCCS.asc
R1 N001 0 1
R2 N002 N001 1/2
R3 N003 0 1/4
V1 N003 N002 2
E1 0 N002 N001 N002 E
I1 N003 0 -3
.backanno
.end